US04225533
Using the method of Example 3, 3-phenylthio-2,2-dimethylcyclopropanecarboxylic acid is reacted with 4-fluoro-3-phenoxybenzyl bromide to yield 4-fluoro-3-phenoxybenzyl 3-phenylthio-2,2-dimethylcyclopropanecarboxylate.

reactant | 3-phenylthio-2,2-dimethylcyclopropanecarboxylic acid | C1(=CC=CC=C1)SC1C(C1C(=O)O)(C)C | C12H14O2S
reactant | 4-fluoro-3-phenoxybenzyl bromide | FC1=C(C=C(CBr)C=C1)OC1=CC=CC=C1 | C13H10BrFO
product | 4-fluoro-3-phenoxybenzyl 3-phenylthio-2,2-dimethylcyclopropanecarboxylate | C1(=CC=CC=C1)SC1C(C1C(=O)OCC1=CC(=C(C=C1)F)OC1=CC=CC=C1)(C)C | C25H23FO3S
